US08808703B2
Step 2: (R)-tert-butyl 3-((R)-2,3-bis(decylcarbamoyloxy)propylthio)-2-palmitamidopropanoate
To a solution of (R)-tert-butyl 2-amino-3-((R)-2,3-bis(decylcarbamoyloxy)propylthio)propanoate in dry DCM (0.1 M) at 0° C. was added DIEA (1.2 eq) and palmitoyl chloride (1.1 eq). The reaction was allowed to warm to room temperature then stirred for 16 hours. The crude reaction was then concentrated and purified by flash chromatography on a COMBIFLASH® system (ISCO) using a gradient 0-60% EtOAc/Hex to afford the title compound as a white solid.

reactant | (R)-tert-butyl 2-amino-3-((R)-2,3-bis(decylcarbamoyloxy)propylthio)propanoate | N[C@H](C(=O)OC(C)(C)C)CSC[C@@H](COC(NCCCCCCCCCC)=O)OC(NCCCCCCCCCC)=O | C32H63N3O6S
reactant | DIEA | 1.2 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | palmitoyl chloride | 1.1 eq | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 3-((R)-2,3-bis(decylcarbamoyloxy)propylthio)-2-palmitamidopropanoate | C(CCCCCCCCC)NC(=O)O[C@@H](CSC[C@@H](C(=O)OC(C)(C)C)NC(CCCCCCCCCCCCCCC)=O)COC(NCCCCCCCCCC)=O | C48H93N3O7S
